US07166598B2
A solution of 5-bromo-2-fluorotoluene (6 g) in ethyl ether (10 ml) and a catalytic amount of iodine were added to a suspension of magnesium (960 mg) in ethyl ether (10 ml) under nitrogen atmosphere and the whole was refluxed for 30 minutes. After cooling, a solution of ethyl orthoformate (5.4 g) in ethyl ether (20 ml) was added to the mixture and the whole was stirred overnight. Sulfuric acid (10%, 20 ml) was added to the mixture and the organic layer was separated, washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by column chromatography on silica gel with a mixture of hexane and ethyl acetate (10:1) as eluent to give 4-fluoro-3-methylbenzaldehyde as an oil.

reactant | 5-bromo-2-fluorotoluene | 6 g | BrC=1C=CC(=C(C1)C)F | C7H6BrF
reactant | iodine | II | I2
reactant | magnesium | 960 mg | [Mg] | Mg
reactant | ethyl orthoformate | 5.4 g | C(OCC)([O-])[O-]
reactant | Sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-fluoro-3-methylbenzaldehyde | FC1=C(C=C(C=O)C=C1)C | C8H7FO
